US09145415B2
To a solution of 2-(2,2,3-trifluoro-3-(3-nitrophenyl)propyl)isoindoline-1,3-dione (C33, 531 mg) in ethanol (4 mL) and tetrahydrofuran (4 mL), hydrazine monohydrate (349 μL) was added at room temperature, and the mixture was stirred at the same temperature for 18 hours. The insoluble matter was removed by filtration, and then the solvent was evaporated under reduced pressure to obtain 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-amine (C34, 224 mg).

reactant | 2-(2,2,3-trifluoro-3-(3-nitrophenyl)propyl)isoindoline-1,3-dione | 531 mg | FC(CN1C(C2=CC=CC=C2C1=O)=O)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C17H11F3N2O4
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | hydrazine monohydrate | 349 μL | O.NN
product | 2,2,3-trifluoro-3-(3-nitrophenyl)propan-1-amine | 224 mg | FC(CN)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C9H9F3N2O2
